US07342032B2
Part E: A stirred mixture containing ethyl 5-(4-bromophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylate (1.00 gram, 2.2 mmol) and 1-aminopiperidine (10 mL) is heated overnight at 50° C. The resulting mixture is allowed to attain room temperature, dichloromethane is added and the resulting solution is twice washed with water, dried over MgSO4, filtered and concentrated in vacuo to give an oil. Flash chromatographic purification of this oil (ethyl acetate/petroleum ether=1/3 (v/v)) gives 5-(4-bromophenyl)-4-(2,4-dichlorophenyl)-N-(1-piperidinyl)thiazole-2-carboxamide (870 mg, 78% yield). Melting point: 171-173° C.

reactant | ethyl 5-(4-bromophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylate | 2.2 mmol, 1.00 gram | BrC1=CC=C(C=C1)C1=C(N=C(S1)C(=O)OCC)C1=C(C=C(C=C1)Cl)Cl | C18H12BrCl2NO2S
reactant | 1-aminopiperidine | 10 mL | NN1CCCCC1 | C5H12N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(4-bromophenyl)-4-(2,4-dichlorophenyl)-N-(1-piperidinyl)thiazole-2-carboxamide | 870 mg, 78% yield | BrC1=CC=C(C=C1)C1=C(N=C(S1)C(=O)NN1CCCCC1)C1=C(C=C(C=C1)Cl)Cl | C21H18BrCl2N3OS
